US04897393
5-(3-amino-4-hydroxybenzyl)-2,4-dioxothiazolidine and 4-(N,N-dimethylamino)phenylacetyl chloride, prepared from 4-(N,N-dimethylamino)phenylacetic acid and oxalyl chloride, are treated in the same manner as described in Example 5-(1) to give N-[5-(2,4-dioxothiazolidin-5-yl)methyl-2-hydroxyphenyl]-2-(4-dimethylaminophenyl)acetamide.

reactant | 5-(3-amino-4-hydroxybenzyl)-2,4-dioxothiazolidine | NC=1C=C(CC2C(NC(S2)=O)=O)C=CC1O | C10H10N2O3S
reactant | 4-(N,N-dimethylamino)phenylacetyl chloride | CN(C)C1=CC=C(C=C1)CC(=O)Cl | C10H12ClNO
reactant | 4-(N,N-dimethylamino)phenylacetic acid | CN(C)C1=CC=C(C=C1)CC(=O)O | C10H13NO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | N-[5-(2,4-dioxothiazolidin-5-yl)methyl-2-hydroxyphenyl]-2-(4-dimethylaminophenyl)acetamide | O=C1SC(C(N1)=O)CC=1C=CC(=C(C1)NC(CC1=CC=C(C=C1)N(C)C)=O)O | C20H21N3O4S
